US08227504B2
5-Chloro-6-(2-hydroxy-ethylamino)-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-nicotinamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 5-chloro-6-(2-hydroxy-ethylamino)-nicotinic acid. MS: 472.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 5-chloro-6-(2-hydroxy-ethylamino)-nicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)NCCO | C8H9ClN2O3
product | 5-Chloro-6-(2-hydroxy-ethylamino)-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-nicotinamide | ClC=1C(=NC=C(C(=O)NC2=C(C=C(C=C2)N2CC(CC2)CN2C(CCC2)C)C)C1)NCCO | C25H34ClN5O2
